US04118511
2-(ethylamino)-4-(1-naphthyloxy)-1-butanol, described in Example 6, with formic acid, followed by reduction, gives 2-(ethylmethylamino)-4-(1-naphthyloxy)-1-butanol, and

reactant | 2-(ethylamino)-4-(1-naphthyloxy)-1-butanol | C(C)NC(CO)CCOC1=CC=CC2=CC=CC=C12 | C16H21NO2
reactant | formic acid | C(=O)O | CH2O2
product | 2-(ethylmethylamino)-4-(1-naphthyloxy)-1-butanol | C(C)N(C(CO)CCOC1=CC=CC2=CC=CC=C12)C | C17H23NO2
